datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCCCCCCCCCCCCCCc1c2ccccc2[n:10]c2ccccc12.C[N+:21](C)(c1cccc2ccccc12)[H:20]>>CCCCCCCCCCCCCCCCCc1c2ccccc2[n+:10]([H:20])c2ccccc12.C[N:21](C)c1cccc2ccccc12 10=20;20,21=21",
"CC(=O)c1cc(F)cc(NC(=O)c2nnn[n:21]2[H:20])c1O.[O-]N=C1CCC/C(=N\[O-:10])C1=N[O-]>>CC(=O)c1cc(F)cc(NC(=O)c2nnn[n-:21]2)c1O.[O-]N=C1CCC/C(=N\[O:10][H:20])C1=N[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].OC(C[S-])C[S-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].OC(C[S-])C[S:10][H:20] 10=20;20,21=21",
"CC(C)(O)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)(O)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Nc1n(-c2ccccc2)nn[n:10]1.O=C([O-])c1cc[n+:21]([H:20])c2ccccc12>>Nc1n(-c2ccccc2)nn[n+:10]1[H:20].O=C([O-])c1cc[n:21]c2ccccc12 10=20;20,21=21",
"C[NH+](C)C[C@@H]1[C@@H]([NH2+:21][H:20])[C@]2(C)CC[C@@H]1C2(C)C.Nc1cncc[n:10]1>>C[NH+](C)C[C@@H]1[C@@H]([NH2:21])[C@]2(C)CC[C@@H]1C2(C)C.Nc1cncc[n+:10]1[H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1.[O-][N+]([O-])=C(CO)C[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1.[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc([O-:10])c(C2CCNCCNCCCNCCN2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc([O:10][H:20])c(C2CCNCCNCCCNCCN2)c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(c1)CCC([NH2:10])C2>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(c1)CCC([NH2+:10][H:20])C2 10=20;20,21=21",
"C[NH:10]c1ccc[n+](O)c1.NNC(=O)c1cc[n+:21]([H:20])cc1>>C[NH+:10](c1ccc[n+](O)c1)[H:20].NNC(=O)c1cc[n:21]cc1 10=20;20,21=21",
"C[NH+]1CCC(N[NH2:10])CC1.Cc1ccc([N:21](C(=S)c2cccc(Br)c2)[H:20])cc1>>C[NH+]1CCC(N[NH2+:10][H:20])CC1.Cc1ccc([N-:21]C(=S)c2cccc(Br)c2)cc1 10=20;20,21=21",
"Cc1cccc(C)c1NC(=O)C[N:10](C)C.c1cc[n+:21]([H:20])c(-c2ccn[nH]2)c1>>Cc1cccc(C)c1NC(=O)C[N+:10](C)(C)[H:20].c1cc[n:21]c(-c2ccn[nH]2)c1 10=20;20,21=21",
"C[C@]1([NH3+])C[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@]1([NH3+])C[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(F)ccc1[O:21][H:20].c1ccc2cc([O-:10])ccc2c1>>CC[NH+](CC)Cc1cc(F)ccc1[O-:21].c1ccc2cc([O:10][H:20])ccc2c1 10=20;20,21=21",
"CSc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CSc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@]1([NH3+])C[C@]1(C)[NH2+:21][H:20].O=[N+]([O-])c1cnc([O-])[n:10]c1[O-]>>C[C@]1([NH3+])C[C@]1(C)[NH2:21].O=[N+]([O-])c1cnc([O-])[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"NCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)(C)[O-:10].COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1>>CC(C)(C)[O:10][H:20].COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1 10=20;20,21=21",
"C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O-:10].Clc1ccc([NH2+:21][H:20])c(Cl)c1>>C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O:10][H:20].Clc1ccc([NH2:21])c(Cl)c1 10=20;20,21=21",
"CC(C)N(Cc1ccccc1[O-:10])C(C)C.CN(C)C([OH2+])[O:21][H:20]>>CC(C)N(Cc1ccccc1[O:10][H:20])C(C)C.CN(C)C([OH2+])[O-:21] 10=20;20,21=21",
"CCC[NH2+]C(C)C(=O)[O:21][H:20].Cc1cnc2c(ccc3c(C)c(C)c[n:10]c32)c1C>>CCC[NH2+]C(C)C(=O)[O-:21].Cc1cnc2c(ccc3c(C)c(C)c[n+:10]([H:20])c32)c1C 10=20;20,21=21",
"O=C(c1ccccc1)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(c1ccccc1)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CC[O+:21]([H:20])C1.CCC(O)C[N:10](CCO)C(C)(C)C>>C1CC[O:21]C1.CCC(O)C[N+:10](CCO)(C(C)(C)C)[H:20] 10=20;20,21=21",
"CO[C@H]1CC=C2CC[N:10]3CC[C@H](CO)C(=CCO)[C@]23C1.Cc1n[n+:21]([H:20])c(C)c(C)c1C>>CO[C@H]1CC=C2CC[N+:10]3([H:20])CC[C@H](CO)C(=CCO)[C@]23C1.Cc1n[n:21]c(C)c(C)c1C 10=20;20,21=21",
"CCSC(C)C(=O)[O:21][H:20].c1ccc(Oc2cc[n:10]cc2)cc1>>CCSC(C)C(=O)[O-:21].c1ccc(Oc2cc[n+:10]([H:20])cc2)cc1 10=20;20,21=21",
"CCCC(=O)O[O-:10].[NH3+]CC(O)C[NH2+:21][H:20]>>CCCC(=O)O[O:10][H:20].[NH3+]CC(O)C[NH2:21] 10=20;20,21=21",
"Nc1nc[n:10]c2c1cnn2-c1ccccc1.O=C1[C@@H]2C[C@@H](C[N+:21]3([H:20])CCCC[C@@H]23)[C@H]2CCCCN12>>Nc1nc[n+:10]([H:20])c2c1cnn2-c1ccccc1.O=C1[C@@H]2C[C@@H](C[N:21]3CCCC[C@@H]23)[C@H]2CCCCN12 10=20;20,21=21",
"C=CC[NH2+]CCC[NH:10]CC=C.CN(C)C(N(C)C)=[N+:21](C)[H:20]>>C=CC[NH2+]CCC[NH+:10](CC=C)[H:20].CN(C)C(N(C)C)=[N:21]C 10=20;20,21=21",
"C=C(OC)C(=O)[O-:10].CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O:21][H:20]>>C=C(OC)C(=O)[O:10][H:20].CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-:21] 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O:21][H:20])c(C[NH3+])c2)c(Cl)c1Cl.O=C1C(Cc2ccccc2)=C([O-:10])C(=O)c2ccccc21>>CCOC(=O)COc1ccc(C(=O)c2ccc([O-:21])c(C[NH3+])c2)c(Cl)c1Cl.O=C1C(Cc2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21 10=20;20,21=21",
"CC(C)CSCC[NH2+:21][H:20].[NH3+][C@H]1CC[C@@H](C(=O)[O-:10])CC1>>CC(C)CSCC[NH2:21].[NH3+][C@H]1CC[C@@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
